US04665097
Part D: Preparation of 1-(4-[4-Chloro-1-naphthoxy]-3,5-dichlorophenyl)-3-(2,6-difluorobenzoyl)thiourea
To a mixture of 1.4 g of potassium thiocyanate and 1.0 mg of 18-Crown-6 in 15 ml CH3CN which was cooled to 0° C. and placed under an atmosphere of nitrogen was slowly added a solution of 23 g of 2,6-diflurobenzoyl chloride in 15 ml of CH3CN. The reaction mixture was stirred for 0.5 hr at 0° C. and then allowed to warm to room temperature. After 0.5 hr at an IR spectrum of an aliquot indicated complete disappearance of the acid chloride. To the reaction mixture was then added 4.0 g of 4-(4-chloro-1-naphthoxy)-3,5-dichloroaniline as a powder. After 0.5 hr at ambient temperature the reaction mixture was poured into 125 ml of cold water. A buff colored solid precipitated and was filtered. The filter cake was then washed with 120 ml of a 5:1 H2O:CH3CN solution. The crystals were then dried overnight in a vacuum oven at 50° C. This afforded 5.6 g of the desired thiourea as a pale yellow crystalline powder. mp 193°-195° C. NMR (D6 -DMSO): 6.43 (d, J-10 Hz, 1H), 7.0-817 (m, 10H contains singlet at 8.13), 12.35 (s, 1H), 12.62 (s, 1H).

reactant | potassium thiocyanate | 1.4 g | [S-]C#N.[K+]
reactant | 18-Crown-6 | 1.0 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 2,6-diflurobenzoyl chloride | 23 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | 4-(4-chloro-1-naphthoxy)-3,5-dichloroaniline | 4.0 g | ClC1=CC=C(C2=CC=CC=C12)OC1=C(C=C(N)C=C1Cl)Cl | C16H10Cl3NO
solvent | CH3CN | 15 ml | CC#N | C2H3N
solvent | CH3CN | 15 ml | CC#N | C2H3N
solvent | water | 125 ml | O | H2O
product | 1-(4-[4-Chloro-1-naphthoxy]-3,5-dichlorophenyl)-3-(2,6-difluorobenzoyl)thiourea | ClC1=CC=C(C2=CC=CC=C12)OC1=C(C=C(C=C1Cl)NC(=S)NC(C1=C(C=CC=C1F)F)=O)Cl | C24H13Cl3F2N2O2S
